US08106052B2
6-(2-Picolinyloxy)-2-cyanobenzothiazole:
(Bromomethyl)pyridine hydrobromide (1.87 g, 7.38 mmol) and 2-cyano-6-hydroxybenzothiazole (1.00 g, 5.68 mmol) were suspended in acetone (50 mL). After introduction of potassium carbonate (1.96 g, 14.2 mmol), the suspension was refluxed for 72 h under nitrogen. After cooling down the mixture and filtering the solids, the filtrate was concentrated and the residue was purified by silica gel chromatography using 50%-75% ethyl acetate in heptane. A yellowish solid was obtained in 72% yield. MS (ESI+): m/z 267.90 (M+H)+; calc'd: 268.05.

reactant | (Bromomethyl)pyridine hydrobromide | 7.38 mmol, 1.87 g | Br.BrCC1=NC=CC=C1
reactant | 2-cyano-6-hydroxybenzothiazole | 5.68 mmol, 1.00 g | C(#N)C=1SC2=C(N1)C=CC(=C2)O | C8H4N2OS
reactant | potassium carbonate | 14.2 mmol, 1.96 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 6-(2-Picolinyloxy)-2-cyanobenzothiazole | 72% yield | N1=C(C=CC=C1)COC1=CC2=C(N=C(S2)C#N)C=C1 | C14H9N3OS
